US04918073
(c) 1-[4,4-Bis(4-fluorophenyl)butyl]-piperazine-2-carboxamide
33.1 g (53.8 mmol) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-tritylpiperazine-2-carboxamide were dissolved in 180 ml of glacial acetic acid, 180 ml of water were added dropwise in the course of 15 minutes, the mixture was subsequently stirred for 90 minutes, the oily precipitate was decanted, 720 ml of H2O and a Little Celite®, a product from Johns-Mannville Corporation, New York, were added, the mixture was filtered and the filtrate was brought to pH 10 with concentrated NaOH and extracted with methylene chloride. The organic phase was dried and concentrated in vacuo.

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-tritylpiperazine-2-carboxamide | 53.8 mmol, 33.1 g | FC1=CC=C(C=C1)C(CCCN1C(CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N)C1=CC=C(C=C1)F | C40H39F2N3O
reactant | water | 180 ml | O | H2O
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-piperazine-2-carboxamide | FC1=CC=C(C=C1)C(CCCN1C(CNCC1)C(=O)N)C1=CC=C(C=C1)F | C21H25F2N3O
